US06355631B1
1[Bis(4-chlorophenyl)methyl]azetidin-3-ylamine may be obtained in the following manner:400 cm3 of a mixture of methanol and liquid ammonia (50/50 by volume) are added to 27 g of 1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl methylsulfonate contained in an autoclave previously cooled to around −60° C. The reaction medium is then stirred at 60° C. for 24 hours and then abandoned in the open air in order to allow the evaporation of the ammonia and finally concentrated under reduced pressure (2.7 kPa). The residue is taken up in 500 cm3 of a 0.37 N aqueous sodium hydroxide solution and extracted with four times 500 cm3 of ethyl ether. The combined organic phases are washed successively with twice 100 cm3 of distilled water and 100 cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluent: dichloromethan/methanol (95/5 by volume)]. 14.2 g of 1-[bis(4-chlorophenyl)methyl]azetidin-3ylamine are obtained in the form of an oil which solidifies into a cream-colored solid.

reactant | ammonia | N | H3N
reactant | 1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl methylsulfonate | 27 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H17Cl2NO3S
solvent | methanol | CO | CH4O
product | 1-[bis(4-chlorophenyl)methyl]azetidin-3ylamine | 14.2 g | ClC1=CC=C(C=C1)C(N1CC(C1)N)C1=CC=C(C=C1)Cl | C16H16Cl2N2
